US07109219B2
2-(3-(4-Hydroxypiperidino)propyl)isoindolin-1,3-dione
N-(3-bromopropyl)phthalimide (26.8 g), 4-hydroxypiperidine (15.0 g) and potassium carbonate (27.6 g) were added to N,N-dimethylformamide; and the reaction mixture was stirred at room temperature overnight. After the addition of water, extraction was performed with ethyl acetate; the organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to yield the title compound (13.9 g).

reactant | N-(3-bromopropyl)phthalimide | 26.8 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
reactant | 4-hydroxypiperidine | 15.0 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-(3-(4-Hydroxypiperidino)propyl)isoindolin-1,3-dione | 13.9 g | OC1CCN(CC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C16H20N2O3
